US09428505B2
A mixture of 8-(vinylsulfonyl)-1,4-dioxa-8-azaspiro[4.5]decane (431 mg, 1.85 mmol), 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione (575 mg, 1.85 mmol), tris(dibenzylidineacetone)palladium(0) (508 mg, 0.55 mmol), tri-tert-butylphosphine tetrafluoroboric acid (165 mg, 0.55 mmol), and methyldicyclohexylamine (2.1 mL, 9.25 mmol) in N-methyl-2-pyrrolidone (18.5 mL) was stirred under nitrogen atmosphere at 110° C. for two hours. The reaction mixture was cooled, quenched with water, and then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by amino-silica gel column chromatography (dichloromethane-methanol) to afford (E)-1-(4-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylsulfonyl)vinyl)-3,5-dimethylphenyl)-5,5-dimeth ylimidazolidine-2,4-dione (584 mg, 68%).

reactant | 8-(vinylsulfonyl)-1,4-dioxa-8-azaspiro[4.5]decane | 1.85 mmol, 431 mg | C(=C)S(=O)(=O)N1CCC2(OCCO2)CC1 | C9H15NO4S
reactant | 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione | 1.85 mmol, 575 mg | BrC1=C(C=C(C=C1C)N1C(NC(C1(C)C)=O)=O)C | C13H15BrN2O2
reactant | tri-tert-butylphosphine tetrafluoroboric acid | 0.55 mmol, 165 mg | F[B-](F)(F)F.[H+].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
reactant | methyldicyclohexylamine | 9.25 mmol, 2.1 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
solvent | N-methyl-2-pyrrolidone | 18.5 mL | CN1C(CCC1)=O | C5H9NO
product | (E)-1-(4-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylsulfonyl)vinyl)-3,5-dimethylphenyl)-5,5-dimeth ylimidazolidine-2,4-dione | 584 mg, 68% | O1CCOC12CCN(CC2)S(=O)(=O)/C=C/C2=C(C=C(C=C2C)N2C(NC(C2(C)C)=O)=O)C | C22H29N3O6S
